** Coordinate Transformations

.subckt xy-rpTransformation x y r p
B1 r 0 V=hypot(V(x),V(y))
B2 p 0 V=atan2(V(y),V(x))
.ends xy-rpTransformation

.subckt rp-xyTransformation r p x y
B1 x 0 V=V(r)*cos(V(p))
B2 y 0 V=V(r)*sin(V(p))
.ends rp-xyTransformation

.subckt xyRotation x1 y1 p x2 y2
B1 cosp 0 V=cos(V(p))
B2 sinp 0 V=sin(V(p))
B3 x2 0 V=V(x1)*V(cosp)-V(y1)*V(sinp)
B4 y2 0 V=V(x1)*V(sinp)+V(y1)*V(cosp)
.ends xyRotation

.subckt uw-abTransformation u w a b
B1 a 0 V=K*1.5*V(u)
B2 b 0 V=K*sqrt(3/4)*(-V(u)-2*V(w))
.param K=sqrt(2/3)
.ends uw-abTransformation

.subckt uvw-aboTransformation u v w a b o
B1 a 0 V=K*0.5*(2*V(u)-V(v)-V(w))
B2 b 0 V=K*sqrt(3/4)*(V(v)-V(w))
B3 o 0 V=K*sqrt(1/2)*(V(u)+V(v)+V(w))
.param K=sqrt(2/3)
.ends uvw-aboTransformation

.subckt ab-uvwTransformation a b u v w
B1 u 0 V=K*V(a)
B2 v 0 V=-V(u)-V(w)
B3 w 0 V=K*(-0.5*V(a)-sqrt(3/4)*V(b))
.param K=sqrt(2/3)
.ends ab-uvwTransformation

.subckt abo-uvwTransformation a b o u v w
X1 a b u1 v1 w1 ab-uvwTransformation K={K}
B1 o1 0 V=K*sqrt(1/2)*V(o)
B2 u 0 V=V(u1)+V(o1)
B3 v 0 V=V(v1)+V(o1)
B4 w 0 V=V(w1)+V(o1)
.param K=sqrt(2/3)
.ends abo-uvwTransformation
